US06426345B1
A mixture of 1-naphthylacetic acid (82 mg), oxalyl chloride (0.02 ml) and catalytic amount of N,N-dimethylformamide in dichloromethane (2 ml) was stirred at room temperature for 30 minutes. The above solution was added to a mixture of 4-(3-aminophenyl)-3-oxo-2-benzyl-3,4-dihydropyrido[2,3-b]pyrazine (131 mg) and triethylamine (0.085 ml) in dichloromethane (2 ml). The mixture was stirred at room temperature for 30 minutes, then poured into a mixture of ethyl acetate add water. The organic phase was washed with aqueous sodium bicarbonate solution and brine, dried over magnesium sulfate and concentrated. The residue was crystallized with ethanol to give 2-benzyl-3-oxo-4-[3-[(1-naphthyl)acetylamino]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine (123 mg).

reactant | 1-naphthylacetic acid | 82 mg | C1(=CC=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | oxalyl chloride | 0.02 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | 4-(3-aminophenyl)-3-oxo-2-benzyl-3,4-dihydropyrido[2,3-b]pyrazine | 131 mg | NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C20H16N4O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.085 ml | C(C)N(CC)CC | C6H15N
product | 2-benzyl-3-oxo-4-[3-[(1-naphthyl)acetylamino]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine | 123 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(CC1=CC=CC3=CC=CC=C13)=O)N=CC=C2 | C32H24N4O2
